US07582773B2
Step 4: Synthesis of [4-(1,3-Dimethyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetonitrile.
The desired product was prepared using a procedure similar to step 5 of example 3. Thus, 4-(1,3-dimethyl-2-phenyl-1H-indol-4-yl)-phenol (0.300 g, 0.957 mmol) was reacted with K2CO3 (0.159 g, 1.148 mmol) and bromoacetonitrile (0.134 g, 1.148 mmol) in acetone (5 ml) to give the product (0.311 g, 0.882 mmol, 92%) as a viscous oil. 1H NMR (DMSO-d6) δ 1.66 (s, 3H), 3.55 (s, 3H), 5.17 (s, 2H), 6.82 (dd, J=0.9, 7.2 Hz, 1H), 7.08 (d, J=8.9 Hz, 2H), 7.16 (t, J=7.2 Hz, 1H), 7.34-7.43 (m, 6H), 7.48 (t, J=7.0 Hz, 2H); [ESI(+)], m/z 353 (M+H)+.

reactant | 4-(1,3-dimethyl-2-phenyl-1H-indol-4-yl)-phenol | 0.957 mmol, 0.300 g | CN1C(=C(C2=C(C=CC=C12)C1=CC=C(C=C1)O)C)C1=CC=CC=C1 | C22H19NO
reactant | K2CO3 | 1.148 mmol, 0.159 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 1.148 mmol, 0.134 g | BrCC#N | C2H2BrN
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | [4-(1,3-Dimethyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetonitrile | CN1C(=C(C2=C(C=CC=C12)C1=CC=C(OCC#N)C=C1)C)C1=CC=CC=C1 | C24H20N2O
